US05032671
Preparation of Poly(ε-Caprolactone/Propylene Oxide) Block Copolymer
The one-liter reactor previously described was charged with a 480 molecular weight poly(propylene oxide) triol (78.9 g), zinc hexacyanocobaltate/zinc chloride/glyme/water catalyst (0.575 g, 980 ppm), and tetrahydrofuran (60 mL). The load-cell reservoir was charged with propylene oxide (341 g). The reactor was purged several times with nitrogen, then pressurized to about 5 psi. The reactor contents were stirred and heated to 90° C. over a 1.5 hour period. An initial charge of 37 g of PO was added to the reactor. A pressure drop was observed about 1 hour after addition of the initial charge, indicating that initiation of the catalyst had occurred. The remaining PO was added over about a 10-hour period. The product was heated for an additional 8 hours at 90° C. following addition of the propylene oxide. ε-Caprolactone (165 g was charged to the load-cell reservoir, and was added to the reactor at 90° C. at a rate of about 40 g/hour. The product was heated for an additional 8 hours at 90° C. following addition of the ε-caprolactone. The product was cooled, drained from the reactor, and filtered through diatomaceous earth. Tetrahydrofuran was removed using a rotary evaporator. Residual ε-caprolactone was removed by passing the polymer product through a wiped-film evaporator under vacuum at 150° C. The ε-caprolactone-capped poly(PO) triol product had a hydroxyl number of 60.5 mg KOH/g and a GPC number average molecular weight of 2410.

reactant | propylene oxide | 341 g | C1C(C)O1 | C3H6O
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | zinc hexacyanocobaltate zinc chloride glyme water | 0.575 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[Co+3].[Co+3].[Zn+2].[Zn+2].[Zn+2].[Cl-].[Zn+2].[Cl-].C(OC)COC.O
product | ε-Caprolactone Propylene Oxide | C1(CCCCCO1)=O.C1C(C)O1 | InChI=1S/C6H10O2.C3H6O/c7-6-4-2-1-3-5-8-6;1-3-2-4-3/h1-5H2;3H,2H2,1H3
